US08957074B2
The 6-(7-cyclopentyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinic acid was combined with tert-butyl hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate following amide formation method 3 which gave tert-butyl 5-(6-(7-cyclopentyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotin oyl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate (45 mg) in 63% yield. HR-MS (m/z MH+) 589.33 RT 4.31 min

reactant | 6-(7-cyclopentyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinic acid | C1(CCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C(=O)O)C=C2)C(N(C)C)=O | C20H22N6O3
reactant | tert-butyl hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | C1N(CC2C1CNC2)C(=O)OC(C)(C)C | C11H20N2O2
product | tert-butyl 5-(6-(7-cyclopentyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotin oyl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | 45 mg, 63% yield | C1(CCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C(=O)N1CC3C(C1)CN(C3)C(=O)OC(C)(C)C)C=C2)C(N(C)C)=O | C31H40N8O4
